US09172049B2
Synthesis of 1,3,5-tris(4-phenylquinolin-2-yl)benzene (TQB)
A mixture of 2-aminobenzophenone (6 g, 30.5 mmol), 1,3,5-triacetylbenzene (2.0 g, 9.79 mmol) and diphenyl phosphate (DPP, 8 equiv.) in 12 mL of toluene was refluxed in argon for 18 h. The reaction mixture was precipitated into 10% methanol/triethylamine and the solid was collected by vacuum filtration. The product was purified by flash column chromatography using dichloromethane and acetonitrile mixture (9.5:0.5), followed by recrystallization from tetrahydrofuran/methanol solvent mixture (2:1, v/v) to give a white solid (5 g, 74% yield). 1H NMR (300 MHz, CDCl3): δ ppm=9.175 (s, 3H), 8.3714 (d, 3H), 8.139 (s, 3H), 7.979 (d, 3H), 7.784 (t, 3H), 7.679-7.5067 (m, 18H). 13C NMR (300 MHz, CDCl3): δ ppm=156.4905, 149.3806, 148.8507, 140.9459, 130.2619, 129.7142, 129.5713, 128.8807, 128.6283, 128.4425, 127.7615, 126.4845, 125.7167, 125.3298, 119.5872. HRMS (FAB) m/z calcd for [(M+H)+] C51H34N3 (688.27551). Found 688.27619.

reactant | 2-aminobenzophenone | 30.5 mmol, 6 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | 1,3,5-triacetylbenzene | 9.79 mmol, 2.0 g | C(C)(=O)C1=CC(=CC(=C1)C(C)=O)C(C)=O | C12H12O3
reactant | diphenyl phosphate | 8 equiv. | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 1,3,5-tris(4-phenylquinolin-2-yl)benzene | 5 g, 74% yield | C1(=CC=CC=C1)C1=CC(=NC2=CC=CC=C12)C1=CC(=CC(=C1)C1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C51H33N3
